US08486979B2
5-(2-fluorophenyl)-3-(pyridin-3-yl)-1,2,4-oxadiazole
The title compound was prepared according to the procedure of Example 8 using N′-hydroxynicotinimidamide (Aldrich) and 2-fluorobenzoic acid (Aldrich). 1H NMR (300 MHz, CD3OD) δ 7.38-7.49 (m, 2 H), 7.64 (ddd, J=8.0, 4.9, 1.0 Hz, 1 H), 7.70-7.79 (m, 1 H), 8.28 (td, J=7.5, 1.9 Hz, 1 H), 8.57 (dt, J=8.1, 1.9 Hz, 1 H), 8.74 (dd, J=4.7, 1.7 Hz, 1 H), 9.31 (dd, J=2.2, 0.8 Hz, 1 H) ppm; MS (DCI/NH3) m/z 242 (M+H)+.

reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | 2-fluorobenzoic acid | FC1=C(C(=O)O)C=CC=C1 | C7H5FO2
reactant | NH3 | N | H3N
product | 5-(2-fluorophenyl)-3-(pyridin-3-yl)-1,2,4-oxadiazole | FC1=C(C=CC=C1)C1=NC(=NO1)C=1C=NC=CC1 | C13H8FN3O
